US07872014B2
1,1-Dimethylethyl 4-{1-methyl-7-(methyloxy)-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl}phenyl carbonate trifluoroacetate (32 mg, 0.049 mmol) was taken into 4 N HCl in dioxane and the mixture was stirred for 1 h at rt. The reaction mixture was concentrated in vacuo. The resulting residue was dissolved in water, frozen, and lyophilized. 4-(1-methyl-7-(methyloxy)-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride was isolated as a solid (13.0 mg, 0.028 mmol, 57% yield). 1H NMR (400 MHz, DMSO-d6): δ9.71 (br m, 2H), 7.59 (d, 2H), 7.54 (d, 2H), 6.94 (m, 2H), 4.18 (d, 2H), 3.76 (s, 3H), 3.04-2.96 (m, 2H), 2.81 (s, 3H), 2.82-2.74 (m, 2H), 2.15 (m, 1H), 2.04 (br d, 2H), 1.67-1.61 (m, 2H); MS (EI) for C25H28N4O3: 433 (MH+).

reactant | 1,1-Dimethylethyl 4-{1-methyl-7-(methyloxy)-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl}phenyl carbonate trifluoroacetate | 0.049 mmol, 32 mg | FC(C(=O)O)(F)F.C(OC(C)(C)C)(OC1=CC=C(C=C1)C1=NC2=C(C=3C=C(C(=CC13)OC)OCC1CCN(CC1)C)C(=NN2)C)=O
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(1-methyl-7-(methyloxy)-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride | Cl.CC1=NNC=2N=C(C=3C=C(C(=CC3C21)OCC2CCN(CC2)C)OC)C2=CC=C(C=C2)O | InChI=1S/C25H28N4O3.ClH/c1-15-23-19-12-22(32-14-16-8-10-29(2)11-9-16)21(31-3)13-20(19)24(26-25(23)28-27-15)17-4-6-18(30)7-5-17;/h4-7,12-13,16,30H,8-11,14H2,1-3H3,(H,26,27,28);1H
